US07504392B2
a) 7-(3-t-Butyldimethysilyloxyphenylsulfonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
Prepared from 3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonyl fluoride and 3-t-butyldimethylsilyloxybromobenzene using the method of Example 1, yield 80%.

reactant | 3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonyl fluoride | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)F)(F)F | C12H11F4NO3S
reactant | 3-t-butyldimethylsilyloxybromobenzene | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)Br | C12H19BrOSi
product | 7-(3-t-Butyldimethysilyloxyphenylsulfonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | yield 80% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)S(=O)(=O)C1=CC2=C(CCNCC2)C=C1 | C22H31NO3SSi
